US06197729B1
b) 8-(1,2,2-trifluoroethyl)-1,4-dioxaspiro[4.5]decane
At atmospheric pressure, 22 g of 8-(1,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane in 250 ml of ethanol in the presence of palladium on carbon as catalyst were hydrogenated until 2.2 liter of hydrogen had been taken up. The catalyst was subsequently filtered off and the filtrate was concentrated. The residue was chromatographed over silica gel (petroleum ether/ethyl acetate, 7:1), to give the title product as a colourless oil.

reactant | 8-(1,2,2-trifluoroethylidene)-1,4-dioxaspiro[4.5]decane | 22 g | FC(C(F)F)=C1CCC2(OCCO2)CC1 | C10H13F3O2
reactant | hydrogen | 2.2 liter | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 8-(1,2,2-trifluoroethyl)-1,4-dioxaspiro[4.5]decane | FC(C(F)F)C1CCC2(OCCO2)CC1 | C10H15F3O2
